US06417183B1
1-Isopropyl-4-(1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine
A 100 ml 3-necked flask under nitrogen atmosphere was charged sequentially with N-(1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine (0.73 g; 3.2 mmol) in THF (20 ml), methanol (10 ml) and acetone (3.3 ml; 45 mmol). To this stirred solution, sodium cyanoborohydride (0.30 g; 4.75 mmol) was added as a solid followed by acetic acid (0.24 ml; 4.2 mmol). After stirring at ambient temperature for 45 minutes, tlc analysis (silica gel, 9:1 CHCl3:CH3OH) of an aliquot revealed the absence of starting amine (Rf 0.03) and the presence of a major component with Rf 0.16. The content of the flask was then concentrated in vacuo. The residue was treated with aqueous sodium bicarbonate and extracted several times with ethyl acetate which was then dried with sodium sulphate. Filtration and removal of solvent in vacuo gave an oil which was subjected to high vacuum for four hours at ambient temperature to yield the title compound (0.87 g); tlc (ibid), homogeneous, Rf 0.16; 1H nmr δ 1.01-1.05 (6H), 3.88-3.92 (m, 1H), 6.98-7.22 (m, 3H), 7.77-7.79 (1, H). Anal: Calcd. for C18H28N2; C, 79.36; H, 10.36; N, 10.28. Found: C, 79.46; H, 10.12; N, 10.08.

reactant | N-(1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine | 3.2 mmol, 0.73 g | C1(CCCC2=CC=CC=C12)N1CCNCCC1 | C15H22N2
reactant | acetone | 45 mmol, 3.3 ml | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 4.75 mmol, 0.30 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 4.2 mmol, 0.24 ml | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-Isopropyl-4-(1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine | 0.87 g | C(C)(C)N1CCN(CCC1)C1CCCC2=CC=CC=C12 | C18H28N2
